US09388189B2
(S)—N-(6-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-4-yl)methanesulfonamide
(S)—N-(6-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-4-yl)methanesulfonamide (37 mg, 0.05 mmol) was treated with trifluoroacetic acid (1 ml, 13 mmol) and a solution of ammonia (7N in methanol, 1 ml, 7 mmol) according to the method described in Example 27 to give 17 mg (53% yield) of the title compound. Purity 95%. LRMS (m/z): 594 (M+1)+.

reactant | (S)—N-(6-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-4-yl)methanesulfonamide | 0.05 mmol, 37 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=CC(=C2C=CNC2=C1)NS(=O)(=O)C)COCC[Si](C)(C)C | C36H41N9O4SSi
reactant | trifluoroacetic acid | 13 mmol, 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 7 mmol, 7N, 1 ml | N | H3N
product | (S)—N-(6-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-4-yl)methanesulfonamide | 17 mg, 53% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C1=CC(=C2C=CNC2=C1)NS(=O)(=O)C | C30H27N9O3S
